US06972287B1
Step A (Scheme 1): Preparation of 1,2-Dimethoxy-4-[2-(4-nitrophenyl)ethenyl]-benzene
The title compound was prepared from p-nitrophenylacetic acid (25.0 g, 0.14 mol), and 3,4-dimethoxybenzaldehyde (21.0 g, 0.14 mol) in piperidine (5 mL) using the procedure described in Example 1, Step A, to yield a yellow solid, 13.4 g (0.047 mol, 34%) of the desired product. mp: 133-134° C.

reactant | p-nitrophenylacetic acid | 0.14 mol, 25.0 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | 3,4-dimethoxybenzaldehyde | 0.14 mol, 21.0 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
solvent | piperidine | 5 mL | N1CCCCC1 | C5H11N
product | 1,2-Dimethoxy-4-[2-(4-nitrophenyl)ethenyl]-benzene | 0.047 mol, 13.4 g, 34% | COC1=C(C=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-])OC | C16H15NO4
